US07368453B2
Step 6. Synthesis of 1,1-Dimethylethyl(2R,3S)-3-hydroxy-2-methyl-1-pyrrolidinecarboxylate
Tetrabutyl ammonium fluoride (16.7 mL, 1N in THF, 16.73 mmol) was added to a solution of 1,1-dimethylethyl(2R,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-methyl-1-pyrrolidinecarboxylate in THF and stirred for 16 hours at room temperature. The reaction mixture was concentrated under reduced pressure and purified by silica gel column chromatography to yield the title compound (1.55 g, 7.8 mmol). 1H NMR (400 MHz, DMSO-D6) δ ppm 1.0 (m, 3 H) 1.4 (s, 9 H) 1.6 (m, 1 H) 1.9 (m, 1 H) 3.3 (m, 2 H) 3.5 (m, 1 H) 3.8 (m, 1 H) 4.9 (s, 1 H). ES+=202.15.

reactant | Tetrabutyl ammonium fluoride | 16.73 mmol, 1N, 16.7 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1,1-dimethylethyl(2R,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-methyl-1-pyrrolidinecarboxylate | CC(C)(C)[Si](O[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)C)(C)C | C16H33NO3Si
solvent | THF | C1CCOC1 | C4H8O
product | 1,1-Dimethylethyl(2R,3S)-3-hydroxy-2-methyl-1-pyrrolidinecarboxylate | 7.8 mmol, 1.55 g | O[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)C | C10H19NO3
